US06888032B2
3,4-Dimethoxy-benzonitrile
A Schlenk tube was charged with NaCN (204 mg, 4.16 mmol), CuI (66 mg, 0.35 mmol, 10 mol %), and KI (114 mg, 0.687 mmol, 20 mol %), briefly evacuated and backfilled with argon three times. Anhydrous toluene (2.4 mL), N,N′-dimethylethylenediamine (370 μL, 3.48 mmol), and 4-bromoveratrole (500 μL, 3.46 mmol) were added under argon. The Schlenk tube was sealed with a Teflon valve and the reaction mixture was stirred at 110° C. for 24 h. The resulting suspension was allowed to reach room temperature, diluted with 30% aq ammonia (2 mL), and extracted with ethyl acetate (4×4 mL). The combined organic phases were dried over MgSO4, concentrated, and the residue was purified by distillation at reduced pressure (bp 160° C. @ 1 Torr) to provide the desired product as pale yellow solid (500 mg, 91% yield). Mp 60-62° C. (lit. 63.0-63.5° C., See Murahashi, S.-I.; Naota, T.; Nakajima, N. J. Org. Chem. 1986, 51, 898). 1H NMR (400 MHz, CDCl3, J values are reported in Hz, lit. See Murahashi, S.-I.; Naota, T.; Nakajima, N. J. Org. Chem. 1986, 51, 898): δ 7.29 (dd, J=8.3, J=2.0, 1H), 7.08 (d, J=2.0, 1H), 6.91 (d, J=8.3, 1H), 3.94 (s, 3H), 3.91 (s, 3H); 13C NMR (100 MHz, CDCl3): δ 153.2, 149.6, 126.9, 119.7, 114.3, 111.6, 104.3, 56.54, 56.51; IR (neat, cm−1): 2225, 1598, 1583, 1519, 1245, 1158, 1139, 1018, 876, 811, 617. Anal. Calcd. for C9H9NO2: C, 66.25; H, 5.56; N, 8.58. Found: C, 66.02; H, 5.72; N, 8.69.

reactant | NaCN | 4.16 mmol, 204 mg | [C-]#N.[Na+]
reactant | toluene | 2.4 mL | C1(=CC=CC=C1)C | C7H8
reactant | N,N′-dimethylethylenediamine | 3.48 mmol, 370 μL | CNCCNC | C4H12N2
reactant | 4-bromoveratrole | 3.46 mmol, 500 μL | BrC=1C=C(C(=CC1)OC)OC | C8H9BrO2
solvent | ammonia | 2 mL | N | H3N
catalyst | CuI | 0.35 mmol, 66 mg | [Cu]I
product | 3,4-Dimethoxy-benzonitrile | 500 mg, 91% yield | COC=1C=C(C#N)C=CC1OC | C9H9NO2
